US04806549
Methyl 4-methoxyacetoacetate (43 ml, 0.33 mol), acetic anhydride (31 ml, 0.33 mol) and triethyl orthoformate (110 ml, 0.66 mol) were heated under reflux for 2 hours, then the excess triethyl orthoformate and the produced ethyl acetate were evaporated from the mixture under reduced pressure. o-Anisidine (43 ml, 0.35 mol) was added and ethanol (15 ml) was distilled over under atmospheric pressure. When cool, the mixture was poured slowly into hexane to produce methyl 2-methoxyacetyl-3-(2-methoxyphenylamino)acrylate (55 g, 59.5%).

reactant | Methyl 4-methoxyacetoacetate | 0.33 mol, 43 ml | COCC(CC(=O)OC)=O | C6H10O4
reactant | acetic anhydride | 0.33 mol, 31 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthoformate | 0.66 mol, 110 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | o-Anisidine | 0.35 mol, 43 ml | COC=1C(=CC=CC1)N | C7H9NO
product | methyl 2-methoxyacetyl-3-(2-methoxyphenylamino)acrylate | 55 g, 59.5% | COCC(=O)C(C(=O)OC)=CNC1=C(C=CC=C1)OC | C14H17NO5
